US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-methoxypurine
6-Amino-9-benzyl-2,8-dimethoxypurine (53 mg, 0.186 mmol) in concentrated hydrochloric acid (10 ml) was stirred for 3 hours at room temperature. The reaction mixture was made basic with 28% aqueous ammonia, and the resulting crystals were filtered and washed with water to give the subject compound (38 mg, yield 75%).

reactant | 6-Amino-9-benzyl-2,8-dimethoxypurine | 0.186 mmol, 53 mg | NC1=C2N=C(N(C2=NC(=N1)OC)CC1=CC=CC=C1)OC | C14H15N5O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 6-Amino-9-benzyl-8-hydroxy-2-methoxypurine | 38 mg, yield 75% | NC1=C2N=C(N(C2=NC(=N1)OC)CC1=CC=CC=C1)O | C13H13N5O2
